US07432291B2
ii) 4-(2-[1,2,3]Triazol-2-yl-ethoxymethyl)-phenol
A solution of 950 mg (3.66 mmol) 2-[2-(4-allyloxy-benzyloxy)-ethyl]-2H-[1,2,3]-triazole in 20 ml dichloromethane was added to a solution of 1.71 g (11.0 mmol) 1,3-dimethylbarbituric acid and 104 mg (0.09 mmol) Pd(PPh3)4 in 40 ml dichloromethane and stirred for 4.5 h at 40° C. The mixture was extracted with 3×40 ml sat. NaHCO3-solution and 15 ml water and the combined aqueous phases were reextracted with 2×40 ml dichloromethane. The organic extracts were combined and dried over MgSO4. Solvents were distilled off and the residue purified by chromatography on silica gel (ethyl acetate/n-heptane 2:1) to yield 690 mg (86%) of the title compound.

reactant | 2-[2-(4-allyloxy-benzyloxy)-ethyl]-2H-[1,2,3]-triazole | 3.66 mmol, 950 mg | C(C=C)OC1=CC=C(COCCN2N=CC=N2)C=C1 | C14H17N3O2
reactant | 1,3-dimethylbarbituric acid | 11.0 mmol, 1.71 g | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.09 mmol, 104 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-[1,2,3]Triazol-2-yl-ethoxymethyl)-phenol | 690 mg, 86% | N=1N(N=CC1)CCOCC1=CC=C(C=C1)O | C11H13N3O2
